US05660598
A mixture of N-(2-ethylhexyl)aniline (8.9 parts), 1-bromopropane (7.4 parts), anhydrous potassium carbonate (11 parts) and N,N-dimethylformamide (30 parts) was stirred at 125° C. for 24 hours. An additional quantity of 1-bromopropane (5 parts) was added and the mixture stirred for a further 18 hours at 125° C. The cooled mixture was filtered and poured into water. The product was extracted into dichloromethane and evaporated to yield N-(2-ethylhexyl)-N-propylaniline (8.9 parts, 78%) which was reacted with acetic anhydride prior to use to remove any unreacted starting materials.

reactant | N-(2-ethylhexyl)aniline | C(C)C(CNC1=CC=CC=C1)CCCC | C14H23N
reactant | 1-bromopropane | BrCCC | C3H7Br
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | N,N-dimethylformamide | CN(C=O)C | C3H7NO
product | N-(2-ethylhexyl)-N-propylaniline | 78% | C(C)C(CN(C1=CC=CC=C1)CCC)CCCC | C17H29N
